US06699904B2
A solution of of 2-[4-(2-heptylamino-ethyl)-phenylamino]-2-methyl-propionic acid (75 mg, 234 μmol), 2,4-difluorophenyl isocyanate (33 μL, 281 μmol), N,N-diisopropylethylamine (82 μL, 468 μmol) and methylene chloride (0.5 mL) was stirred at ambient temperature for 18 h, concentrated under reduced pressure and purified by flash column chromatography (3% methanol/chloroform) to provide 8.6 mg (8%) of 2-(4-{2-[3-(2,4-difluoro-phenyl)-1-heptyl-ureido]-ethyl}-phenylamino)-2-methyl-propionic acid as a white foam.

reactant | 2-[4-(2-heptylamino-ethyl)-phenylamino]-2-methyl-propionic acid | 234 μmol, 75 mg | C(CCCCCC)NCCC1=CC=C(C=C1)NC(C(=O)O)(C)C | C19H32N2O2
reactant | 2,4-difluorophenyl isocyanate | 281 μmol, 33 μL | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
reactant | N,N-diisopropylethylamine | 468 μmol, 82 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-{2-[3-(2,4-difluoro-phenyl)-1-heptyl-ureido]-ethyl}-phenylamino)-2-methyl-propionic acid | 8.6 mg, 8% | FC1=C(C=CC(=C1)F)NC(N(CCCCCCC)CCC1=CC=C(C=C1)NC(C(=O)O)(C)C)=O | C26H35F2N3O3
